US08877742B2
tert-butyl 4-(N-(3-(5-fluoro-1-methylindolin-6-yl)-1-isopropyl-1H-pyrrolo[2,3-b]pyridin-4-yl)sulfamoyl)piperidine-1-carboxylate
A microwave vial was charged with tert-butyl 4-sulfamoylpiperidine-1-carboxylate (331 mg, 1.252 mmol), 4-bromo-3-(5-fluoro-1-methylindolin-6-yl)-1-isopropyl-1H-pyrrolo[2,3-b]pyridine (D37) (324 mg, 0.834 mmol), Pd2(dba)3 (76 mg, 0.083 mmol), xantphos (97 mg, 0.167 mmol) and cesium carbonate (816 mg, 2.503 mmol). This was suspended in 1,4-dioxane (7 mL) and degassed under nitrogen atmosphere for 10 mins before subjected to microwave heating at 130° C. for 30 mins. The reaction mixture was filtered through celite (washing with ethyl acetate). The filtrate was removed in vacuo to give a residue which was purified using chromatography on silica (eluted with 0-20% ethyl acetate/DCM) to afford the title compound (450 mg). LCMS (A): m/z (M+H)+ 572, C29H38FN5O4S requires 571 (acidic).

reactant | tert-butyl 4-sulfamoylpiperidine-1-carboxylate | 1.252 mmol, 331 mg | S(N)(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O4S
reactant | 4-bromo-3-(5-fluoro-1-methylindolin-6-yl)-1-isopropyl-1H-pyrrolo[2,3-b]pyridine | 0.834 mmol, 324 mg | BrC1=C2C(=NC=C1)N(C=C2C2=C(C=C1CCN(C1=C2)C)F)C(C)C | C19H19BrFN3
reactant | xantphos | 0.167 mmol, 97 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 2.503 mmol, 816 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.083 mmol, 76 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(N-(3-(5-fluoro-1-methylindolin-6-yl)-1-isopropyl-1H-pyrrolo[2,3-b]pyridin-4-yl)sulfamoyl)piperidine-1-carboxylate | 450 mg | FC=1C=C2CCN(C2=CC1C1=CN(C2=NC=CC(=C21)NS(=O)(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C(C)C)C | C29H38FN5O4S
